US05700819
The procedure of Example 22-i) was repeated using 1,3-biscyanomethyl-5-fluorobenzene (1.6 g, 9.2 mmol) and 2-amino-3,4,6-trifluorothiophenol hydrochloride (1.98 g, 9.2 mmol) and the resultant product was crystallized from isopropyl ether to give 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-fluorophenylacetonitrile (868 mg, 28%) as a colorless powder.

reactant | 1,3-biscyanomethyl-5-fluorobenzene | 9.2 mmol, 1.6 g | C(#N)CC1=CC(=CC(=C1)F)CC#N | C10H7FN2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 9.2 mmol, 1.98 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | 3-[(4,5,7-trifluorobenzothiazol-2-yl)methyl]-5-fluorophenylacetonitrile | 868 mg, 28% | FC1=C(C=C(C2=C1N=C(S2)CC=2C=C(C=C(C2)F)CC#N)F)F | C16H8F4N2S
